US08034945B2
(a). 5-Formyl-2-hydroxy-benzoic acid methyl ester
5-Formyl-2-hydroxy-benzoic acid (11.3 g) was dissolved in methanol (35 ml) and conc. sulfuric acid (3 ml). The mixture was heated at reflux for 40 h. Diethyl ether was added, and the mixture was poured into water. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in a mixture of dioxane (80 ml) and water (50 ml) and treated with 6N hydrochloric acid (2.5 ml). After 15 min., dioxane was removed in vacuo. The mixture was extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | 5-Formyl-2-hydroxy-benzoic acid | 11.3 g | C(=O)C=1C=CC(=C(C(=O)O)C1)O | C8H6O4
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | methanol | 35 ml | CO | CH4O
product | 5-Formyl-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C=O)O)=O | C9H8O4
